US04007174
b. (6R,7S)-3-Acetoxymethyl-7-[2-hydroxyimino-2-(fur-2-yl) acetamido]-7-methoxyceph-3-em-4-carboxylic Acid (syn isomer)
t-Butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-[2-triphenylmethoxyimino-2-(fur-2-yl)-acetamido]-ceph-3-em-4-carboxylate (syn isomer) (713.3 mg, 0.966 mmole) was treated with trifluoroacetic acid (10 ml) and anisole (5 ml) for a total of 40 mins. and then added slowly to rapidly stirred saturated aqueous sodium bicarbonate (600 ml.). The mixture was extracted with ethyl acetate (2×150 ml), covered with ethyl acetate (200 ml), and adjusted to pH 2 with orthophosphoric acid. The organic layer was combined with the ethyl acetate wash (200 ml) of the aqueous layer, dried, and evaporated to a brown foam. Chromatography on three 40 × 20 cm. preparative-layer plates in chloroform-methanol-formic acid (90:16:2) provided a sample of the title compound as a pale-yellow foam containing ca 21/2 mole-equivalents water (i.r. and microanalysis) (137 mg, 0.283 mmole, 29%) paper chromatography Rf 0.26, Rf/Rf cephaloram 0.58, λmax (pH 6 buffer) 272.5 nm (ε 16,400).

reactant | t-Butyl (6R,7S)-3-acetoxymethyl-7-methoxy-7-[2-triphenylmethoxyimino-2-(fur-2-yl)-acetamido]-ceph-3-em-4-carboxylate | 0.966 mmole, 713.3 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@]2(NC(C(C=2OC=CC2)=NOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)OC)=O | C40H39N3O9S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | sodium bicarbonate | 600 ml | C([O-])(O)=O.[Na+]
product | (6R,7S)-3-Acetoxymethyl-7-[2-hydroxyimino-2-(fur-2-yl) acetamido]-7-methoxyceph-3-em-4-carboxylic Acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@@]2(OC)NC(C(C=2OC=CC2)=NO)=O)=O | C17H17N3O9S
